US09226500B2
Preparation of Ethyl 2-methyl-4-vinylbenzoate (AI14)
4-Formyl-2-methylbenzoic acid (AI15). To a stirred solution of 4-bromo-2-methylbenzoic acid (10 g, 46.4 mmol) in dry THF (360 mL) at −78° C. was added n-BuLi (1.6 M solution in hexanes; 58.17 mL, 93.0 mmol) and DMF (8 mL). The reaction mixture was stirred at −78° C. for 1 h then was warmed to 25° C. and stirred for 1 h. The reaction mixture was quenched with 1 N HCl solution and extracted with EtOAc. The combined EtOAc extracts were washed with brine and dried over Na2SO4 and concentrated under reduced pressure. The residue was washed with n-hexane to afford the title compound as a solid (3.0 g, 40%): mp 196-198° C.; 1H NMR (400 MHz, DMSO-d6) δ 13.32 (br s, 1H), 10.05 (s, 1H), 7.98 (m, 1H), 7.84 (m, 2H), 2.61 (s, 3H); ESIMS m/z 163.00 ([M−H]−).

reactant | 4-Formyl-2-methylbenzoic acid | C(=O)C1=CC(=C(C(=O)O)C=C1)C | C9H8O3
reactant | 4-bromo-2-methylbenzoic acid | 46.4 mmol, 10 g | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | n-BuLi | 93.0 mmol, 1.6 M, 58.17 mL | [Li]CCCC
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | THF | 360 mL | C1CCOC1 | C4H8O
product | Ethyl 2-methyl-4-vinylbenzoate | 3.0 g, 40% | CC1=C(C(=O)OCC)C=CC(=C1)C=C | C12H14O2
